US07834035B2
(3-Fluoro-phenyl)-[3-(3-phenyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-methanone
The compound was prepared following the procedure described in the Example 3(D), using 3-Fluoro-benzoyl chloride as the acyl chloride of choice and the 3-(3-Phenyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride (already prepared before in the Example 7). Yield: 53% (yellow oil); Rf=0.25 (DCM/MeOH: 98/2); LCMS (Tr): 4.77 min (Method C); MS (ES+) gave m/z: 352.3.

reactant | 3-Fluoro-benzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 3-(3-Phenyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C1=NOC(=N1)C1CNCCC1
solvent | DCM MeOH | C(Cl)Cl.CO
product | (3-Fluoro-phenyl)-[3-(3-phenyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-methanone | Yield: 53% | FC=1C=C(C=CC1)C(=O)N1CC(CCC1)C1=NC(=NO1)C1=CC=CC=C1 | C20H18FN3O2
